US06436915B1
Synthesis of 3,5-Diamino-4-[(4-bromophenyl)hydrazono]pyrazole
This compound was prepared using 125 mg (0.5 mmol) of 2-[(4-bromophenyl)-hydrazono]malononitrile, which was derived from 4-bromoaniline (172 mg, 1.0 mmol) and malononitrile (1.5 mmol) as described in Example 8, and hydrazine hydrate. The hydrazine hydrate was added to the solution at a temperature of 75° C. despite the fact that the starting material had not fully dissolved. The solution cleared briefly and then a precipitate formed. The resulting solid was isolated by filtration, washed with ethanol, and dried to yield 109 mg (78%) of the title compound as a yellow solid. 1H NMR (ppm, DMSO-d6): 6.15 (br s, 4H), 7.52 (d, 2H), 7.61 (d, 2H), 10.71 (s, 1H).

reactant | 2-[(4-bromophenyl)-hydrazono]malononitrile | 0.5 mmol, 125 mg | BrC1=CC=C(C=C1)NN=C(C#N)C#N | C9H5BrN4
reactant | 4-bromoaniline | 1.0 mmol, 172 mg | BrC1=CC=C(N)C=C1 | C6H6BrN
reactant | malononitrile | 1.5 mmol | C(CC#N)#N | C3H2N2
reactant | hydrazine hydrate | O.NN
product | 3,5-Diamino-4-[(4-bromophenyl)hydrazono]pyrazole | 109 mg, 78% | NC1=NN=C(C1=NNC1=CC=C(C=C1)Br)N | C9H9BrN6
